US07842324B2
Methyl 2-(5-bromopyridin-2-yl)-2-methylpropanoate (514 mg, 2 mmol) was dissolved in dry DCM (10 mL) and cooled to −10° C. BBr3 (20 mL of 1M solution in DCM) was added drop-wise under argon to the solution. The reaction mixture was stirred 30 min at −10° C. and then at room temperature for 72 h and evaporated to give 2-(5-Bromopyridin-2-yl)-2-methylpropanoic acid used in the next step without further purification. MS+H (244, 246).

reactant | Methyl 2-(5-bromopyridin-2-yl)-2-methylpropanoate | 2 mmol, 514 mg | BrC=1C=CC(=NC1)C(C(=O)OC)(C)C | C10H12BrNO2
reactant | BBr3 | 1M, 20 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-Bromopyridin-2-yl)-2-methylpropanoic acid | BrC=1C=CC(=NC1)C(C(=O)O)(C)C | C9H10BrNO2
